US08309573B2
(R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one diphosphate monohydrate 0.5 ethanol solvate
A free form (501 mg) of (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one was measured in a reaction test tube, aqueous ethanol (4.3 mL, ethanol:water=8:1) was added and the mixture was completely dissolved by heating under reflux. Thereto was added aqueous phosphoric acid solution (2 mL, solution prepared by diluting commercially available 85% phosphoric acid (2.02 g) with the above-mentioned aqueous ethanol to scale up to 10 mL), and the mixture was stirred at room temperature for one day and left standing. The precipitate was collected by filtration. The obtained precipitate (302 mg) was measured in a reaction test tube, aqueous ethanol (2.4 mL, ethanol:water=6:1) was added, and the mixture was completely dissolved by heating under reflux. The mixture was stirred at room temperature for one day and left standing. The precipitate was collected by filtration and dried under reduced pressure at 50° C. for 5 hr to give the title compound (260 mg).

reactant | (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one | 501 mg | OC[C@@H]1N(CCC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | C17H22N2O2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | phosphoric acid | 2.02 g | P(O)(O)(O)=O | H3O4P
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 4.3 mL | C(C)O | C2H6O
product | (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one diphosphate monohydrate | 260 mg | O.OP(O)(=O)OP(=O)(O)O.OC[C@@H]1N(CCC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | InChI=1S/C17H22N2O2.H4O7P2.H2O/c1-12-4-2-6-15-16(12)10-13(18-17(15)21)7-9-19-8-3-5-14(19)11-20;1-8(2,3)7-9(4,5)6;/h2,4,6,10,14,20H,3,5,7-9,11H2,1H3,(H,18,21);(H2,1,2,3)(H2,4,5,6);1H2/t14-;;/m1../s1
